US05877174
A mixture of 10.5 g of methyl [4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]acetate, 42 ml of trifluoroacetic acid and 21 ml of anisole was refluxed for 4 hours. The reaction mixture was cooled to room temperature and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=6:1) to obtain 4.5 g of methyl (2,3-dioxopiperazin-1-yl)acetate as colorless crystals.

reactant | methyl [4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]acetate | 10.5 g | COC1=C(CN2C(C(N(CC2)CC(=O)OC)=O)=O)C=CC(=C1)OC | C16H20N2O6
reactant | trifluoroacetic acid | 42 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 21 ml | C1(=CC=CC=C1)OC | C7H8O
product | methyl (2,3-dioxopiperazin-1-yl)acetate | 4.5 g | O=C1N(CCNC1=O)CC(=O)OC | C7H10N2O4
